US07157491B2
1-Bromo-2-(2,2-dimethoxy-ethoxy)-4-methyl benzene
To a solution of anhydrous ethanol (40 ml), sodium ethoxide (31.7 ml 21% wt., 86.94 mmol) and 2-bromo-5-methylphenol (Gewali, Mohan B.; Ronald, Bruce P. J. Org. Chem. 1980, 45, 2224–2229) (16.25 g, 86.94 mmol) was added 2-bromo-1,1-dimethoxy ethane (16.17 g, 95.64 mmol). The solution was heated to reflux overnight, reduced under vacuum and partitioned between water and ether. The aqueous layer was extracted with ether and the organics were passed through a silica plug and concentrated to afford 8.71 g (36%) of desired product as a pale yellow oil: 1H NMR (400 MHz, DMSO-d6): δ 2.19 (3H, s), 3.33 (6H, s), 3.96 (2H, d, J=5.1 Hz), 4.64 (1H, t, J=5.1 Hz), 6.98 (1H, d, J=8.5 Hz), 7.08 (1H, dd, J=8.4 Hz, 1.5 Hz), 7.35 (1H, d, J=1.7 Hz).

reactant | sodium ethoxide | 86.94 mmol, 31.7 ml | [O-]CC.[Na+]
reactant | 2-bromo-5-methylphenol | 86.94 mmol, 16.25 g | BrC1=C(C=C(C=C1)C)O | C7H7BrO
reactant | 2-bromo-1,1-dimethoxy ethane | 95.64 mmol, 16.17 g | BrCC(OC)OC | C4H9BrO2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-Bromo-2-(2,2-dimethoxy-ethoxy)-4-methyl benzene | 8.71 g, 36% | BrC1=C(C=C(C=C1)C)OCC(OC)OC | C11H15BrO3
